Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.62771838965
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11],1.5831880324599998
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.79482420088
[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.55513020327
[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4][H:5].[O:1]=[C:2]([O:3])[C:6]([H:7])([H:8])[H:9],5.71503631383
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:7]([H:8])([H:9])[O:10][C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.77031466239
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10],-3.24217100575
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9],5.978167289680001
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-6.234247773790001
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.0275436575
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.60846218559
[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.88917175125
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],2.74450460983
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],0.190801163671
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],5.41952062307
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:16]([H:17])([H:18])[H:19],4.4223864318
[C:5]([H:6])([H:7])([C:8][H:14])[H:13].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([C:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-7.00087637
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],3.93087909809
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:9][C:10]([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-4.04659618888
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13],2.02112779428
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-0.185540029681
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-4.0075785680900005
[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4],1.36235775785
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.41618005741
[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[O:4],2.01873891601
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.21239536742
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][H:11].[H:9],3.5725871159300007
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]#[C:7][C:8]([H:9])[H:10].[H:6],4.53549278939
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.00016212776
